US07700655B2
(2) 5-Chloro-2-hydroxy-N-{4-[3-(trifluoromethyl)phenyl]thiazol-2-yl}benzamide (Compound No. 550)
Using 5-chlorosalicylic acid and 2-amino-4-[3-(trifluoromethyl)phenyl]thiazole as the raw materials, the same operation as the Example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2-amino-4-[3-(trifluoromethyl)phenyl]thiazole | NC=1SC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C10H7F3N2S
product | 5-Chloro-2-hydroxy-N-{4-[3-(trifluoromethyl)phenyl]thiazol-2-yl}benzamide | Yield: 31.0% | ClC=1C=CC(=C(C(=O)NC=2SC=C(N2)C2=CC(=CC=C2)C(F)(F)F)C1)O | C17H10ClF3N2O2S
